US05436134
Example 3: Preparation of 1,2-dihydro-1,4-dimethyl-2-quinolone (3)
The starting 1,2-dihydro-1,4-dimethyl-2-quinolone (3) is prepared by first conjugating N-methylaniline with diketene, followed by an acid cyclization of the amide intermediate. Thus 10.0 g (0.12 moles) of diketene is added dropwise to 10.7 g (0.1 moles) of N-methylaniline and the reaction is heated at 100 ° C. for an additional 30 minutes. To the resulting mixture is added 30 mL of acetic acid and 30 mL of sulfuric acid, and the mixture is heated at 50 ° C. overnight. The reaction is worked up with water and ethyl acetate and purified on a silica gel column to yield 9.5 g of the desired product.

reactant | N-methylaniline | CNC1=CC=CC=C1 | C7H9N
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | diketene | 0.12 moles, 10.0 g | C=C1CC(=O)O1 | C4H4O2
reactant | N-methylaniline | 0.1 moles, 10.7 g | CNC1=CC=CC=C1 | C7H9N
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1,2-dihydro-1,4-dimethyl-2-quinolone | 9.5 g | CN1C(C=C(C2=CC=CC=C12)C)=O | C11H11NO
